US08431575B2
To a stirred solution of (4-benzyloxy-phenyl)-acetic acid (61.9 mmol, 15.0 g), HBTU (74.3 mmol, 28.1 g), and N,O-dimethylhydroxylamine hydrochloride (92.9 mmol, 9.0 g) in DMF (100 mL) at 0° C. was added DIEA (136.3 mmol, 17.5 g) drop-wise. The reaction mixture was warmed to room temperature and stirred for 30 min. The mixture was diluted with ethyl acetate, washed with water, and 1.0 N HCl, followed by brine. The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure to provide 2-(4-benzyloxy-phenyl)-N-methoxy-N-methyl-acetamide.

reactant | (4-benzyloxy-phenyl)-acetic acid | 61.9 mmol, 15.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | HBTU | 74.3 mmol, 28.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,O-dimethylhydroxylamine hydrochloride | 92.9 mmol, 9.0 g | Cl.CNOC
reactant | DIEA | 136.3 mmol, 17.5 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-benzyloxy-phenyl)-N-methoxy-N-methyl-acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)N(C)OC | C17H19NO3
